US07741327B2
A solution of (S)-2-[4-(2,4-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-amide (0.62 g, 1.24 mmol) in methanol (12.4 mL) at 25° C. was treated with p-toluenesulfonic acid monohydrate (35 mg, 0.18 mmol). The reaction was stirred at 25° C. overnight. At this time, the reaction was diluted with ethyl acetate (100 mL) and was washed with a saturated aqueous sodium bicarbonate solution (1×150 mL) and a saturated aqueous sodium chloride solution (1×150 mL), dried over sodium sulfate, filtered and concentrated in vacuo. Purification by Analogix flash chromatography (40 g, 2-5% methanol/dichloromethane gradient) afforded (S)-2-[4-(2,4-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide (0.46 g, 80%) as an off-white solid: HR-ES-MS m/z calculated for C22H26N4O5F2 [M+H]+ 465.1944, observed 465.1944; 1H NMR (300 MHz, DMSO-d6) δ ppm 0.90 (d, J=6.3 Hz, 3H), 0.94 (d, J=6.6 Hz, 3H), 1.34-1.50 (m, 1H), 1.50-1.67 (m, 1H), 1.67-1.89 (m, 1H), 3.21-3.32 (m, 2H), 3.78 (br. s., 1H), 3.87 (dd, J=13.6, 7.5 Hz, 1H), 4.09 (dd, J=13.6, 3.6 Hz, 1H), 4.22 (d, J=18.4 Hz, 1H), 4.60 (d, J=18.4 Hz, 1H), 4.71 (t, J=5.4 Hz, 1H), 4.81-4.99 (m, 3H), 6.41 (d, J=2.1 Hz, 1H), 7.12-7.26 (m, 1H), 7.48-7.66 (m, 3H), 10.78 (s, 1H).

reactant | (S)-2-[4-(2,4-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-amide | 1.24 mmol, 0.62 g | CC1(OC[C@H](O1)CN1N=C(C=C1)NC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C=C(C=C1)F)F)=O)=O)C | C25H30F2N4O5
reactant | p-toluenesulfonic acid monohydrate | 0.18 mmol, 35 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 12.4 mL | CO | CH4O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (S)-2-[4-(2,4-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide | 0.46 g, 80% | O[C@H](CN1N=C(C=C1)NC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C=C(C=C1)F)F)=O)=O)CO | C22H26F2N4O5
